US09079916B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-(4-(N-methylsulfamoyl)phenyl)pyridin-3-yl)cyclopropanecarboxamide was prepared from 4-(N-methylsulfamoyl)phenylboronic acid and 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide in a manner analogous to that of 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide.

reactant | 4-(N-methylsulfamoyl)phenylboronic acid | CNS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H10BNO4S
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(5-bromo-6-methylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)Br)C | C17H15BrN2O3
reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-phenylpyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)C2=CC=CC=C2)C | C23H20N2O3
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-5-(4-(N-methylsulfamoyl)phenyl)pyridin-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=NC(=C(C2)C2=CC=C(C=C2)S(NC)(=O)=O)C | C24H23N3O5S
